US07569592B2
1-Pyridin-2-yl-1H-pyrazol-3-yl trifluoromethanesulfonate (0.211 g, 0.72 mmol), 3-fluorobenzonitrile (0.111 g, 0.76 mmol) and potassium carbonate (0.209 g, 1.51 mmol) in a mixture of ethyleneglycol dimethyl ether (20 mL) and water (4 mL) was degassed by argon bubbling for 15 min., then tetrakis(triphenylphosphine)palladium(0) (20 mg, 0.017 mmol) was added the resulting solution degassed for a further 15 min. The solution was stirred at 65° C. for 12 h. The reaction mixture was quenched with water (30 mL), then extracted with EtOAc (3×30 mL) and washed with brine. The combined organic phase was dried over Na2SO4 and concentrated in vacuo. The crude residue was chromagraphed on silica gel eluting with EtOAc:hexane (2:3) to afford a white solid which was recrystallized from EtOAc-hexane to give 3-(1-pyridin-2-yl-1H-pyrazol-3-yl)benzonitrile as a white solid. 1H NMR (CD3Cl, 300 MHz) δ 8.64 (d, 1H), 8.44 (d, 1H), 8.25 (s, 1H), 8.14 (d, 1H), 8.10 (d, 1H), 7.87 (t, 1H), 7.64 (d, 1H), 7.55 (t, 1H), 7.24 (dd, 1H), 6.80 (d, 1H). MS (ESI) 247 (M++H).

reactant | 1-Pyridin-2-yl-1H-pyrazol-3-yl trifluoromethanesulfonate | 0.72 mmol, 0.211 g | FC(S(=O)(=O)OC1=NN(C=C1)C1=NC=CC=C1)(F)F | C9H6F3N3O3S
reactant | 3-fluorobenzonitrile | 0.76 mmol, 0.111 g | FC=1C=C(C#N)C=CC1 | C7H4FN
reactant | potassium carbonate | 1.51 mmol, 0.209 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyleneglycol dimethyl ether | 20 mL | COCCOC | C4H10O2
solvent | water | 4 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.017 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-pyridin-2-yl-1H-pyrazol-3-yl)benzonitrile | N1=C(C=CC=C1)N1N=C(C=C1)C=1C=C(C#N)C=CC1 | C15H10N4
